US04814343
alpha-(2,6-Dimethoxy-3-methoxymethylphenyl)-1-triphenylmethyl-1H-imidazole-4-methanol
Starting from 1-bromo-2,6-dimethoxy-3-methoxymethylbenzene and 1-triphenylmethyl-1H-imidazole-4-carboxaldehyde. The reaction product is purified by chromatography on silica and is present in the form of a glassy lac. Yield: 48% of theory.

reactant | 1-bromo-2,6-dimethoxy-3-methoxymethylbenzene | BrC1=C(C(=CC=C1OC)COC)OC | C10H13BrO3
reactant | 1-triphenylmethyl-1H-imidazole-4-carboxaldehyde | C1(=CC=CC=C1)C(N1C=NC(=C1)C=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H18N2O
product | alpha-(2,6-Dimethoxy-3-methoxymethylphenyl)-1-triphenylmethyl-1H-imidazole-4-methanol | Yield: 48% | COC1=C(C(=CC=C1COC)OC)C(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H32N2O4
